Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ syndrome complicated by gram positive bacteremia
 
Major Surgical or Invasive Procedure:
TEE ___: No discrete vegetation or abscess seen. Mild mitral 
regurgitation.

 
History of Present Illness:
___ yo M PMHx ___'s disease c/b cirrhosis with hx varices, HE,
recurrent cholangitis and E. faecalis bacteremia, recent PE with
RV strain on LMWH presented to ED with fevers that started 
___
night and dry cough that started on ___ found to have GPCs
in blood.

The patient reports a 2 day history of fevers at home as well as
a dry cough that started ___. He otherwise reports some 
mild
nausea and chronic diarrhea ___ lactulose but otherwise no
abdominal pain, chest pain, vomiting, headache, black/bloody
stools. He takes suppressive Augmentin since his last infection
in ___ and reports no missed doses.

The patient has multiple hospitalizations for bacteremia and
cholangitis, most recently in ___. He is on chronic
suppression with Augmentin. He has also been hospitalized
recently in ___ for a submassive PE ___ PICC-associated 
DVT,
originally started on apixaban but had hematemesis, BRBPR,
hypotension requiring a MICU admission. Now on Lovenox. He has a
history of CRE E. Coli in ___ and reportedly VRE bacteremia per
documentation review although not in ___ records. His recent 
E.
faecalis species have been pan-sensitive. Regarding his
cirrhosis, he has a history of HE on lactulose and grade I
varices on nadolol as of his most recent EGD in ___. No 
clear
history of ascites although he does take amiloride and 
furosemide
as home medications. 
  
 In the ED:  
 - Initial vital signs were notable for:  Temp 98.4, HR 81, BP
136/74, RR 16 satting 99% on RA
 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 

recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis    
-Depression  
-Osteopenia   
-Seasonal allergies  
-Inguinal hernia repair in ___
 
Social History:
___
Family History:
Mother has heart disease. Father died at age ___ from cancer and
there is no other liver disease in his family that is known.
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VITALS: 24 HR Data (last updated ___ @ 1835)
    Temp: 100.2 (Tm 100.2), BP: 116/67, HR: 95, RR: 18, O2 sat:
95%, O2 delivery: RA   
 GENERAL: Alert and interactive. In no acute distress.  
 EYES: NCAT. EOMI. Sclera anicteric. 
 ENT: MMM. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
 RESP: Mild wheezes throughout. No rhonchi or rales. No 
increased
work of breathing.  
 ABDOMEN: Soft, Non-distended, non-tender to deep palpation in
all four quadrants. No organomegaly.  
 MSK: No CVA tenderness. No clubbing, cyanosis, or edema. Pulses
DP/Radial 3+ bounding bilaterally.  
 SKIN: Warm. Cap refill <2s. No rash.  
 NEUROLOGIC: AOx3. CN2-12 grossly intact. Able to say days of 
the
week backwards. No asterixis.  
 PSYCH: appropriate mood and affect 

DISCHARGE PHYSICAL EXAM:  
==============
24 HR Data (last updated ___ @ 741) 
Temp: 98.2 (Tm 99.3), BP: 128/79 (118-129/72-79), HR: 93 
(91-99),
RR: 20 (___), O2 sat: 94% (93-95), O2 delivery: Ra, Wt: 218.3
lb/99.02 kg 

GENERAL: Alert and interactive. In no acute distress.  
EYES: NCAT. Sclera anicteric. 
ENT: MMM. JVP elevated
CARDIAC: Regular rhythm, normal rate.  
RESP: decreased breath sounds on R side. No increased work of
breathing.  
ABDOMEN: Soft, Non-distended, non-tender to deep palpation in 
all
four quadrants. +umbilical hernia
MSK: No CVA tenderness. Trace peripheral edema.
SKIN: Warm.  No rash.  
NEUROLOGIC: AOx3. moving all extremities. 

 
Pertinent Results:
ADMISSION LABS:
===================

___ 12:52PM BLOOD WBC-2.4* RBC-3.30* Hgb-9.3* Hct-30.4* 
MCV-92 MCH-28.2 MCHC-30.6* RDW-17.3* RDWSD-58.5* Plt Ct-60*
___ 12:52PM BLOOD Neuts-69.5 Lymphs-13.2* Monos-15.7* 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-1.68 AbsLymp-0.32* 
AbsMono-0.38 AbsEos-0.02* AbsBaso-0.01
___ 02:37PM BLOOD ___ PTT-41.2* ___
___ 12:52PM BLOOD Glucose-135* UreaN-16 Creat-1.0 Na-138 
K-4.7 Cl-106 HCO3-20* AnGap-12
___ 07:49AM BLOOD ALT-14 AST-20 AlkPhos-149* TotBili-0.5 
DirBili-0.2 IndBili-0.3
___ 12:52PM BLOOD Albumin-3.5 Calcium-8.7 Phos-2.4* Mg-1.9
___ 07:36AM BLOOD CRP-101.7*
___ 01:20PM BLOOD Lactate-1.5

DISCHARGE LABS:
==================

___ 06:06AM BLOOD WBC-2.3* RBC-2.82* Hgb-7.9* Hct-25.9* 
MCV-92 MCH-28.0 MCHC-30.5* RDW-17.5* RDWSD-58.8* Plt Ct-49*
___ 06:06AM BLOOD Neuts-70.6 Lymphs-17.1* Monos-10.1 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-1.61 AbsLymp-0.39* 
AbsMono-0.23 AbsEos-0.02* AbsBaso-0.01
___ 06:06AM BLOOD Glucose-97 UreaN-11 Creat-0.8 Na-145 
K-4.3 Cl-111* HCO3-24 AnGap-10
___ 06:06AM BLOOD ALT-14 AST-20 AlkPhos-142* TotBili-0.6
___ 06:06AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.7

MICROBIOLOGY DATA:
======================

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECIUM.    FINAL SENSITIVITIES. 
         HIGH LEVEL GENTAMICIN SCREEN: Susceptible to 500 mcg/ml 
of
         gentamicin. Screen predicts possible synergy with 
selected
         penicillins or vancomycin. Consult ID for details. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
         Daptomycin MIC OF 2 MCG/ML test result performed by 
Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
DAPTOMYCIN------------       S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------ <=0.5 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
      Reported to and read back by ___ ___ AT 
8:40AM. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

___ 11:14 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECIUM. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

___ 11:14 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECIUM. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

TTE 
CONCLUSION:
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage.
The left atrial appendage ejection velocity is normal. No 
spontaneous echo contrast or thrombus is seen
in the body of the right atrium/right atrial appendage. There is 
no evidence for an atrial septal defect by
2D/color Doppler. Overall left ventricular systolic function is 
normal. The right ventricle has normal free
wall motion. There are no aortic arch atheroma with no atheroma 
in the descending aorta to 30 cm from
the incisors. The aortic valve leaflets (3) are mildly 
thickened. No masses or vegetations are seen on the
aortic valve. No abscess is seen. There is trace aortic 
regurgitation. The mitral valve leaflets appear
structurally normal with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve.
No abscess is seen. There is mild [1+] mitral regurgitation. The 
tricuspid valve leaflets appear
structurally normal. No mass/vegetation are seen on the 
tricuspid valve. No abscess is seen. There is
trivial tricuspid regurgitation. There is no pericardial 
effusion.
IMPRESSION: No discrete vegetation or abscess seen. Mild mitral 
regurgitation.
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
==================== 
___ yo M PMHx Caroli's disease c/b cirrhosis with hx varices, HE, 
recurrent cholangitis and E. faecalis bacteremia, recent PE with 
RV strain on LMWH admitted for fevers that started ___ night 
and dry cough,  found to have ampicillin-resistant enterococcus. 
He was treated with IV Vanc 1000mg q12 hours. 

TRANSITIONAL ISSUES:
==================
[ ] TTE showing mod-severe pulm hypertension (PAp 58; given 
concern for this contributing to DOE, was referred to cardiology 
to follow up outpatient. TTE will need to be repeated in future
[ ] Midline placed for IV abx for gram positive bacteremia, will 
be followed by ___ Infectious Disease clinic, with projected 
end date ___. Will get weekly lab work for this.
[ ] ___ at ___ will 
be the Primary Care Physician to write scripts for outpatient IV 
abx.

HEPATOLOGY:
[ ] Diuretics (Amiloride and Lasix) held on discharge given 
active infection, will restart after checking with Dr. ___ 
(___).
[ ] Will plan to start Rifaxamin after IV daptomycin course for 
chronic suppressive therapy with Caroli Syndrome. Will need to 
follow up regarding insurance coverage past the end of this 
year.
[ ] Stopped prophylactic Bactrim given he developed bacteremia 
on this. Will plan to use Rifaxamin as suppressive therapy after 
course of IV abx.

ACUTE ISSUES:  
============= 
#Ampicillin-resistant enterococcus
#History of Cholangitis
Given the patient's history of recurrent cholangitis and E. 
faecalis bacteremia, and now again with enterococcus in blood, 
there was high suspicion for biliary source. Of note, 
enterococcus was previously ampicillin sensitive, but grew 
ampicillin resistant this admission. Bacteremia occurred while 
on suppressive Amox/clav. TEE was performed and showed no 
evidence of endocarditis. He was changed from IV vancomycin (D1: 
___ to IV Daptomycin due to medication-induced neutropenia, 
and was discharged on IV dapto to be followed by ___ clinic 
with projected end date ___.

#Cirrhosis
#___'s disease
___ A. Meld-Na 11. Well-compensated when not actively 
infected. 
- VARICES: EGD ___ with grade I varices in distal esophagus. 
Also PHGP noted in stomach. History of banded varices per 
patient. Will hold home nadolol for now given risk for 
decompensation iso bacteremia.
- ASCITES: No ascites noted on RUQUS. Patient reports never 
requiring a paracentesis. Held home diuretics despite evidence 
of volume overload in setting of infection. Will continue to 
hold until following up with Dr. ___. 
- HE: Continued home lactulose.
- Continued ursodiol

#Pulmonary embolism
History of PE with RV strain ___. Unable to tolerate DOAC due
to bleeding. Switched to Lovenox which he is tolerating well. No
chest pain, shortness of breath, hypoxia, or e/o bleeding.
- Continued home LMWH 100 mg SC BID

#Dry cough
#Dyspnea upon exertion
#Pulmonary HTN
Patient is asymptomatic and not hypoxic or platypneic to suggest
hepatopulmonary syndrome. No ascites for hepatic hydrothorax. 
CXR
in ED unremarkable. Most recent ECHO with PASP 34 mmHg. TTE this
admission with higher pulmonary artery pressure, which may
explain DOE. Received duonebs PRN, will need to follow up with 
cardiologist. 
 
#Depression:
Continued citalopram 20 mg daily

#GERD
Continued home pantoprazole

#Glaucoma
Continued home latanoprost
 
#CODE: Full code (confirmed) 
#CONTACT: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC Q12H 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Ursodiol 600 mg PO BID 
4. Nadolol 20 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Magnesium Oxide 400 mg PO DAILY 
7. Citalopram 20 mg PO DAILY 
8. aMILoride 5 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Furosemide 40 mg PO DAILY 
11. Lactulose 30 mL PO Q8H:PRN encephalopathy 

 
Discharge Medications:
1.  Daptomycin 600 mg IV Q24H  
2.  Heparin Flush (10 units/ml) 2 mL IV X1 PRN For Midline 
Insertion  
3.  aMILoride 5 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  Enoxaparin Sodium 100 mg SC Q12H  
6.  Furosemide 40 mg PO DAILY  
7.  Lactulose 30 mL PO Q8H:PRN encephalopathy  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Magnesium Oxide 400 mg PO DAILY  
10.  Nadolol 20 mg PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.  Ursodiol 600 mg PO BID  
13.Outpatient Lab Work
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

DAPTOMYCIN: WEEKLY: CBC with differential, BUN, Cr, CPK

ICD9: 790.7 Bacteremia

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMRARY DIAGNOSIS: 
================= 
Ampicillin-resistant enterococcus bacteremia 
 
SECONDARY DIAGNOSIS: 
=================== 
Cirrhosis secondary to Caroli's Syndrome 
History of Pulmonary embolism 
Thrombocytopenia secondary to cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because you were having fevers. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were diagnosed with bacteremia, or bacteria in your blood.
- You were started on IV antibiotics.  
- You got imaging studies of your heart to rule out 
endocarditis(infection or inflammation of your heart valves)

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  
-You will need to follow up with Infectious Disease doctors in 
___, but should take your IV daptomycin until ___. 
After you finish this course, resume taking the oral medication 
called Rifaxamin for suppression of infection.
- We are holding your diuretics (Amiloride and Lasix) on 
discharge because you have an active infection and it could make 
your blood pressure too low. Check with Dr. ___ resuming 
these.
- Weigh yourself daily, and if your weight increases more than 3 
lbs in 2 days or 5 lbs in 1 week, call Dr. ___ as you may need 
to restart antibiotics.

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___